US05326760
(a) 4-(1,3-Dihydro-1,3-dioxo-2H-benz[f]isoindol-2-yl)-2-(R)-[[3-methyl-1-(S)-[[methylamino]carbonyl]butyl]amino]-butanoic acid-1,1-dimethylethyl ester
300 mg of N-[(R)-1-[(1,1-dimethylethoxy)carbonyl]-3-(1,3-dihydro-1,3-dioxo-2H-benz[f]isoindol-2-yl)propyl]-L-leucine, prepared as in Example L, was added to 120 mg of hydroxybenzotriazol.H2O, 150 mg of dicyclohexylcarbodiimide, 600 mg methylamine-hydrochoride, and 30 mL dichloromethane. 0.5 ; mL triethylamine was added and the mixture was stirred for 18 h. The mixture was filtered through celite and the solvent was removed by evaporation. The resulting residue was purified by silica chromatography using hexane:ethyl acetate:dichloromethane (2:1:1) as eluent to give the title compound as a white solid; 320 mg.

reactant | N-[(R)-1-[(1,1-dimethylethoxy)carbonyl]-3-(1,3-dihydro-1,3-dioxo-2H-benz[f]isoindol-2-yl)propyl]-L-leucine | 300 mg | CC(C)(OC(=O)[C@@H](CCN1C(C=2C=C3C(=CC2C1=O)C=CC=C3)=O)N[C@@H](CC(C)C)C(=O)O)C | C26H32N2O6
reactant | hydroxybenzotriazol | 120 mg | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | dicyclohexylcarbodiimide | 150 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | methylamine-hydrochoride | 600 mg | Cl.CN
solvent | triethylamine | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
solvent | H2O | O | H2O
product | 4-(1,3-Dihydro-1,3-dioxo-2H-benz[f]isoindol-2-yl)-2-(R)-[[3-methyl-1-(S)-[[methylamino]carbonyl]butyl]amino]-butanoic acid-1,1-dimethylethyl ester | CC(C)(C)OC([C@@H](CCN1C(C=2C=C3C(=CC2C1=O)C=CC=C3)=O)N[C@@H](CC(C)C)C(=O)NC)=O | C27H35N3O5
